US08383659B2
LiH (1.72 g) is added to a solution of 3′,5′-dichloro-2,2,2-trifluoroacetophenone (26.6 g) and 1-(4-methyl-5-trimethylsilanylethynyl-thiophen-2-yl)-ethanone (18.2 g) in THF (100 ml). After 30 minutes at 60° C. MTBE is added (200 ml) and the reaction mixture is poured onto water (30 ml) at 5° C. The organic phase is extracted with water and a saturated aqueous solution of NaCl, dried over Na2SO4 and concentrated in vacuo to yield 3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-3-hydroxy-1-(4-methyl-5-trimethylsilanylethynyl-thiophen-2-yl)-butan-1-one (20.7 g). The crude product is used without further purification.

reactant | LiH | 1.72 g | [H-].[Li+]
reactant | 3′,5′-dichloro-2,2,2-trifluoroacetophenone | 26.6 g | ClC=1C=C(C=C(C1)Cl)C(C(F)(F)F)=O | C8H3Cl2F3O
reactant | 1-(4-methyl-5-trimethylsilanylethynyl-thiophen-2-yl)-ethanone | 18.2 g | CC=1C=C(SC1C#C[Si](C)(C)C)C(C)=O | C12H16OSSi
reactant | MTBE | CC(C)(C)OC | C5H12O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-3-hydroxy-1-(4-methyl-5-trimethylsilanylethynyl-thiophen-2-yl)-butan-1-one | 20.7 g | ClC=1C=C(C=C(C1)Cl)C(CC(=O)C=1SC(=C(C1)C)C#C[Si](C)(C)C)(C(F)(F)F)O | C20H19Cl2F3O2SSi
